US05049671
(±)-cis-4-(2-Amino-6-pentoxy-9H-purin-9-yl)-2-cyclopentene-1-methanol
To a solution of l±)-cis-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol (0.544 g, 2 mmol) in 1-pentanol (10 mL) at 110° C. was added NaH (60% oil dispersion, 0.160g, 4 mmol). The mixture was stirred at 110° C. for 15 minutes, then cooled to room temperature. 1 N HCl was added to adjust the pH to 7.0, and the solvent was removed by evaporation. The residual oil was chromatographed on silica gel. Title compound was eluted with 7% methanol-chloroform; white powder after crystallization from acetonitrile-methanol (0.481g, 76%); mp=139-141° C.;

reactant | cis-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol | 2 mmol, 0.544 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)Cl | C11H12ClN5O
reactant | NaH | 4 mmol, 0.160g | [H-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | 1-pentanol | 10 mL | C(CCCC)O | C5H12O
product | (±)-cis-4-(2-Amino-6-pentoxy-9H-purin-9-yl)-2-cyclopentene-1-methanol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)OCCCCC | C16H23N5O2
